US04060626
In a manner analogous to that described in Example 4, 60.6 g 3,4-dimethylaniline were diazotized with 37.0 g sodium nitrite and reacted with 73.0 g ethyl 2-methyl-acetoacetate to give ethyl pyruvate (3,4-dimethylphenylhydrazone), which does not crystallize. A greater part of the dark brown impurities present can be removed by treatment of a solution of the hydrazone in ligroin with silica gel. After evaporation of the ligroin, the hydrazone (81.1 g; 49% of theory) was dissolved in ethanol and hydrogen chloride was passed in, with ice cooling, until the solution was saturated. While passing in further hydrogen chloride, the solution was heated under reflux for 15 minutes, whereafter the reaction mixture was cooled and filtered with suction. The filtrate was evaporated to dryness and the residue digested several times with warm ligroin. The ligroin was evaporated somewhat and cooled. The ester which thereby crystallized out (31.6 g; 42% of theory) was filtered off with suction and, for saponification, heated under reflux for one hour with 27 g potassium hydroxide in 230 ml methanol. Thereafter, the reaction mixture was cooled and filtered with suction. The filtrate was treated with active charcoal and thereafter evaporated to dryness. The residue was taken up in water, again clarified with active charcoal and acidified with hydrochloric acid. The product was filtered off with suction and recrystallized twice from isopropanol; the 4,5-dimethylindole-2-carboxylic acid obtained (3.6 g; 13% of theory) then has a melting point of 247°-250° C (decomp.).

reactant | 3,4-dimethylaniline | 60.6 g | CC=1C=C(N)C=CC1C | C8H11N
reactant | sodium nitrite | 37.0 g | N(=O)[O-].[Na+]
reactant | ethyl 2-methyl-acetoacetate | 73.0 g | CC(C(=O)OCC)C(=O)C | C7H12O3
product | ethyl pyruvate (3,4-dimethylphenylhydrazone) | CC=1C=C(C=CC1C)NN=C(C(=O)OCC)C | C13H18N2O2
